US04912104
7-Butyl-3-ethoxycarbonylmethylamino-5-propylpyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
To a stirred suspension of N-chlorosuccinimide (6.5 g) in chloroform (80 ml) was added in portions 1-butyl-6-(4-ethoxycarbonylmethylthiosemicarbazido)-3-propylpyrimidine-2,4(1H,3H)-dione (18 g) under ice-cooling. The mixture was stirred for one hour, followed by addition of hexane (200 ml) to give an insoluble product. The insoluble product was filtered off.

reactant | N-chlorosuccinimide | 6.5 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 1-butyl-6-(4-ethoxycarbonylmethylthiosemicarbazido)-3-propylpyrimidine-2,4(1H,3H)-dione | 18 g | C(CCC)N1C(N(C(C=C1NNC(=S)NCC(=O)OCC)=O)CCC)=O | C16H27N5O4S
reactant | hexane | 200 ml | CCCCCC | C6H14
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-Butyl-3-ethoxycarbonylmethylamino-5-propylpyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | C(CCC)N1C(N(C(C2=C1NN=C2NCC(=O)OCC)=O)CCC)=O | C16H25N5O4
